US06498165B1
2-[4-Trifluoromethoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 4-trifluoromethoxybenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 386.2 (M+1). 1H NMR (500 MHz, CDCl3): d partial 8.59 (s, 1H); 8.44 (br s, 1H); 8.02 (br s, 1H); 7.86 (d, J=8.3 Hz, 1H); 7.45 (d, J=8.4 Hz, 2H); 7.24 (d, J=8.3 Hz, 1H); 6.87 (d, J=5.2 Hz, 1H); 5.84 (br s, 1H); 4.76 (d, J=6.1 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 4-trifluoromethoxybenzylamine | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
product | 2-[4-Trifluoromethoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine | FC(OC1=CC=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C1)(F)F | C19H14F3N5O
